US09290485B2
b) 3-(azidomethyl)-7-methylquinoline
To a solution of (7-methylquinolin-3-yl)methanol 41.5 mg, 0.232 mmol) and DBU (0.063 ml, 0.418 mmol) in DMF (0.8 ml) was added DPPA (0.085 ml, 0.395 mmol). The reaction mixture was stirred for 1.5 h at 23° C. Reaction mixture was poured in brine and extracted twice with ethyl acetate. Organic layer was dried over sodium sulfate, filtered and evaporated to afford the title compound. HPLC (Method G) Rt=1.174 min, MS (Method V) [M+H]+=199.2.

reactant | (7-methylquinolin-3-yl)methanol | 0.232 mmol, 41.5 mg | CC1=CC=C2C=C(C=NC2=C1)CO | C11H11NO
reactant | DBU | 0.418 mmol, 0.063 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | DPPA | 0.395 mmol, 0.085 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 3-(azidomethyl)-7-methylquinoline | N(=[N+]=[N-])CC=1C=NC2=CC(=CC=C2C1)C | C11H10N4
